US06225495B1
To a mixture solution of 0.50 g of (1RS)-trans-2,2-dimethyl-3-((E)-1-propenyl)cyclopropanecarboxylic acid, 0.72 g of 1-bromomethyl-2,3,5,6-tetrafluoro-4-methylbenzene and 8 ml of dimethylformamide, 1.0 g of triethylamine was added and the mixture was stirred at 80° C. for 4 hours. After the mixture was cooled to room temperature, water was poured into the mixture and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (eluent: hexane/ethyl acetate=20/1) to give 0.83 g of (2,3,5,6-tetrafluoro-4-methylphenyl)methyl(1RS)-trans-2,2-dimethyl-3-((E)-1-propenyl)cyclopropanecarboxylate

reactant | (1RS)-trans-2,2-dimethyl-3-((E)-1-propenyl)cyclopropanecarboxylic acid | 0.50 g | CC1([C@H]([C@@H]1\C=C\C)C(=O)O)C | C9H14O2
reactant | 1-bromomethyl-2,3,5,6-tetrafluoro-4-methylbenzene | 0.72 g | BrCC1=C(C(=C(C(=C1F)F)C)F)F | C8H5BrF4
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | (2,3,5,6-tetrafluoro-4-methylphenyl)methyl(1RS)-trans-2,2-dimethyl-3-((E)-1-propenyl)cyclopropanecarboxylate | 0.83 g, yield 90% | CC1([C@H]([C@@H]1\C=C\C)C(=O)OCC1=C(C(=C(C(=C1F)F)C)F)F)C | C17H18F4O2
